US06695977B2
Step 2(iii): Preparation of (5R)-2-methyl-4,4,5-triphenyloxazoline
19 g (56.5 mmol) of (5R)-4,4,5-triphenyl-1,3,2-dioxathiolane 2-oxide in 90 ml of acetonitrile were introduced into a 250 ml three-necked flask fitted with magnetic stirrer, nitrogen/vacuum connection and 25 ml dropping funnel (with pressure equalization). After the mixture had been cooled to 0° C., 10 ml (113 mmol) of trifluoromethanesulfonic acid were added. The mixture was subsequently stirred at room temperature for a further sixteen hours. The solid by-product formed was filtered off with suction and rinsed with n-hexane, and the mother liquor was adjusted to a pH of 8 using sodium hydroxide solution (2.5 N) and finally freed from organic solvent in a rotary evaporator. After taking-up in dichloromethane, the product solution was dried over magnesium sulfate. After removal of the dichloromethane, the product was isolated in a yield of 64%.

reactant | (5R)-4,4,5-triphenyl-1,3,2-dioxathiolane 2-oxide | 56.5 mmol, 19 g | C1(=CC=CC=C1)C1(OS(O[C@@H]1C1=CC=CC=C1)=O)C1=CC=CC=C1 | C20H16O3S
reactant | trifluoromethanesulfonic acid | 113 mmol, 10 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | acetonitrile | 90 ml | C(C)#N | C2H3N
product | (5R)-2-methyl-4,4,5-triphenyloxazoline | yield of 64% | CC=1O[C@@H](C(N1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H19NO
